US05220003
To a solution of crotonaldehyde (31.8 g, 0.454 mole) and triethylamine (51.4 g, 1.1 eq) in benzene at 25° C., was added hydroquinone (0.95 g) and zinc chloride (0.75 g) rapidly with efficient stirring. This was followed by the addition of freshly distilled trimethylsilyl chloride (46 ml, 0.9 eq) over 1-2 minutes, whereupon a white precipitate rapidly formed. After stirring the mixture for 30 minutes at 25° C., a further 0.2 eq of trimethylsilyl chloride were added. The reaction was then warmed to 70° C. and stirred at this temperature for 12 hours. It was then cooled to 0° C., quenched by addition of saturated aq. NaHCO3 (75 ml), poured into a separatory funnel, and the organic layer separated. The aqueous layer was extracted with further portions of benzene (3×50 ml), the organic extracts combined, washed with 10% KHSO4, and the benzene removed in vacuo to leave a dark brown liquid. Distillation through a short Vigreaux column yielded 28.4 g (46%) of pure 1-trimethylsilyloxy-1,3-butadiene as a colorless liquid (bp 78°-80° C./68 mm Hg). 1H NMR (200 MHz, CDCl3): δ 6.66(1H,d,J=11.9 Hz), 6.35(1H,dt,J=17.1, 10.6Hz), 5.84(1H,t,J=11.4 Hz), 5.11(1H,dd,J=16.8, 1.8 Hz), 4.94(1H,dd,J=10.3, 1.8 Hz), 0.37(9H, s).

reactant | crotonaldehyde | 0.454 mole, 31.8 g | C(\C=C\C)=O | C4H6O
reactant | triethylamine | 51.4 g, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 46 ml, 0.9 eq | C[Si](C)(C)Cl | C3H9ClSi
reactant | trimethylsilyl chloride | 0.2 eq | C[Si](C)(C)Cl | C3H9ClSi
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | zinc chloride | 0.75 g | [Cl-].[Zn+2].[Cl-]
catalyst | hydroquinone | 0.95 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 1-trimethylsilyloxy-1,3-butadiene | 28.4 g, 46% | C[Si](OC=CC=C)(C)C | C7H14OSi
